US04476308
Ethyl (R/S)-2-(3-trimethylsilyloxy-2-oxo-1-pyrrolidinyl)acetate is obtained analogously to the process in accordance with paragraph (a) of Example 1. After treatment with 25% ammonium hydroxide solution and acidic hydrolysis of the (R/S)-2-(3-trimethylsilyloxy-2-oxo-1-pyrrolidinyl)acetamide, there is obtained crude (R/S)-2-(3-hydroxy-2-oxo-1-pyrrolidinyl)acetamide. After chromatography on silica gel (granular size 0.2-0.5 mm) and elution with acetonitrile/methanol (1:1), (R/S)-2-(3-hydroxy-2-oxo-1-pyrrolidinyl)acetamide in about 80-90% purity can be detected.

reactant | ammonium hydroxide | [OH-].[NH4+]
reactant | (R/S)-2-(3-trimethylsilyloxy-2-oxo-1-pyrrolidinyl)acetamide | C[Si](OC1C(N(CC1)CC(=O)N)=O)(C)C | C9H18N2O3Si
product | (R/S)-2-(3-hydroxy-2-oxo-1-pyrrolidinyl)acetamide | OC1C(N(CC1)CC(=O)N)=O | C6H10N2O3
